US07259157B2
2-Azidomethyl-1,4-dibenzyl-piperazine
To a solution of 1,4-dibenzyl-2-chloromethyl-piperazine (8.8 g, 0.028 mol) in dimethylformamide (90 mL) under nitrogen was added sodium azide (5.5 g) and the reaction stirred at 50° C. for 18 h. The reaction was cooled and diluted with 10% aqueous sodium bicarbonate (100 mL) and water (250 mL) and the mixture extracted with ethyl acetate (2×200 mL). The organic extracts were washed with 10% sodium bicarbonate, brine, dried over sodium sulfate and concentrated to an oil.

reactant | 1,4-dibenzyl-2-chloromethyl-piperazine | 0.028 mol, 8.8 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CCl | C19H23ClN2
reactant | sodium azide | 5.5 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | water | 250 mL | O | H2O
product | 2-Azidomethyl-1,4-dibenzyl-piperazine | N(=[N+]=[N-])CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23N5
